US07790720B2
2.3 Synthesis of 1-(3-{4-[4-methyl-5-(piperidin-1-ylmethyl)-1,3-oxazol-2-yl]phenoxy}propyl)piperidine 61
A solution of {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazol-5-yl}methanol ax61 (330 mg, 1.21 mmol, 1 eq) and triethylamine (187 μl, 1.33 mmol, 1.1 eq) in dichloromethane (25 ml) is cooled to 0° C. (ice bath) and treated dropwise with methanesulfonyl chloride (103 μl, 1.33 mmol, 1.1 eq). The mixture is stirred 1 h at 0° C. and poured into 20 ml of a saturated aqueous solution of ammonium chloride and extracted with dichloromethane. The organic phases are dried over magnesium sulfate and concentrated. The oily residue is taken up in acetonitrile (25 ml) and treated with sodium iodide (18 mg, 0.12 mmol, 0.1 eq) and piperidine (360 μl, 3.64 mmol, 3 eq). The mixture is stirred at 22° C. for 1 h and then heated at 90° C. (oil bath) overnight. After cooling, the mixture is poured into 10 ml of 1 N aqueous hydrogen chloride and extracted with ether. The aqueous phase is then made basic (pH 10) by addition of 3 N aqueous sodium hydroxide, and extracted with ethyl acetate. The ethyl acetate solution is dried over magnesium sulfate and concentrated to yield 310 mg of an orange oil. This oil is purified by chromatography over silicagel (eluent: dichloromethane/methanol/ammonia 98:1.8:0.2) to afford 60 mg of 1-(3-{4-[4-methyl-5-(piperidin-1-ylmethyl)-1,3-oxazol-2-yl]phenoxy}propyl)piperidine 61 as a pale yellow oil.

reactant | {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-oxazol-5-yl}methanol | ClCCCOC1=CC=C(C=C1)C=1OC(=C(N1)C)CO | C14H16ClNO3
reactant | triethylamine | 1.33 mmol, 187 μl, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.33 mmol, 103 μl, 1.1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium iodide | 0.12 mmol, 18 mg, 0.1 eq | [I-].[Na+]
reactant | piperidine | 3.64 mmol, 360 μl, 3 eq | N1CCCCC1 | C5H11N
reactant | hydrogen chloride | 1 N, 10 ml | Cl | ClH
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-(3-{4-[4-methyl-5-(piperidin-1-ylmethyl)-1,3-oxazol-2-yl]phenoxy}propyl)piperidine | 310 mg, Yield: 12% | CC=1N=C(OC1CN1CCCCC1)C1=CC=C(OCCCN2CCCCC2)C=C1 | C24H35N3O2
